US05013759
A solution of 2-(4-benzyloxy-3-methoxyphenyl)propionic acid (5.0 g, 17.5 mmoles) and 4-methylmorpholine (2.0 mL, 17.5 mmoles) in ethyl acetate (170 mL) at 0° C. was treated with isobutyl chloroformate (2.26 mL, 17.5 mmoles). The resulting white slurry was stirred for 20 minutes. A solution of racemic 2-octylamine (2.7 g, 21 mmoles) in ethyl acetate (10 mL total solution) was added to the suspension which was then stirred for 3 hours. The mixture was extracted with 1M hydrochloric acid (3×50 mL), with a saturated sodium bicarbonate solution (3×50 mL), with brine (1×50 mL) and dried over magnesium sulfate. The ethyl acetate was rotary evaporated affording N-2-octyl-2-(4-benzyloxy-3-methoxyphenyl)proprionamide as a white solid which was crystallized from ether/methylene chloride to give 4.55 g. This racemic mixture of diastereomers was separated by silica gel chromatography.

reactant | 2-(4-benzyloxy-3-methoxyphenyl)propionic acid | 17.5 mmoles, 5.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(=O)O)C)OC | C17H18O4
reactant | 4-methylmorpholine | 17.5 mmoles, 2.0 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 17.5 mmoles, 2.26 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | racemic 2-octylamine | 21 mmoles, 2.7 g | CC(CCCCCC)N | C8H19N
solvent | ethyl acetate | 170 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-2-octyl-2-(4-benzyloxy-3-methoxyphenyl)proprionamide | CC(CCCCCC)NC(C(C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)=O | C25H35NO3
